US06200991B1
1-phenyl-2-(piperidin-4-ylmethoxy)-4,5,6,7-tetrahydro-1H-benzimidazole
0.98 g (2.44 mmol) of 1-phenyl-[[1-(phenylmethyl)piperidin-4-yl]methoxy]-4,5,6,7-tetrahydro-1H-benzimidazole is suspended in 20 ml of methanol and supplemented successively with 1.54 g (2.44 mmol) of ammonium formate and 0.75 g of 10% palladium on carbon. The mixture is heated at boiling temperature for 1 hour, filtered and concentrated under vacuum. The product is taken up in 5 N sodium hydroxide, extracted with methylene chloride and dried over Na2SO4. After concentration, 0.55 g of product is recovered. Yield=72%.

reactant | 1-phenyl-[[1-(phenylmethyl)piperidin-4-yl]methoxy]-4,5,6,7-tetrahydro-1H-benzimidazole | 2.44 mmol, 0.98 g | C1(=CC=CC=C1)N1C(=NC2=C1CCCC2)OCC2CCN(CC2)CC2=CC=CC=C2 | C26H31N3O
reactant | ammonium formate | 2.44 mmol, 1.54 g | C(=O)[O-].[NH4+]
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 0.75 g | [Pd] | Pd
product | 1-phenyl-2-(piperidin-4-ylmethoxy)-4,5,6,7-tetrahydro-1H-benzimidazole | Yield=72% | C1(=CC=CC=C1)N1C(=NC2=C1CCCC2)OCC2CCNCC2 | C19H25N3O
